US07820675B2
Octahydrothieno[3,4-b]pyrazine 6,6-dioxide*
cis-3,4-Dichlorotetrahydrothiophene 1,1-dioxide (5.0 g, 26.0 mmol) in dioxane (40 mL) was added dropwise to ethane-1,2-diamine (10.4 g, 173.0 mmol) in dioxane (25 mL) at 0° C. The mixture was heated at 100° C. for 3 h, followed by cooling to room temperature and continued stirring overnight. The two layers were separated and the bottom layer, containing ethylene diamine and amine salt, was washed twice with dioxane. The dioxane layers were combined and the solvent was removed in vacuo. The crude product was recrystallized from toluene to afford 2.7 g (59%) of the title compound as white crystals. HPLC 98%, RT: 0.292 (System B; 10-97% MeCN over 3 min). 1H NMR (270 MHz, methanol-d4) δ ppm 2.67-2.76 (m, 2H) 2.86-2.96 (m, 2H) 3.13-3.20 (m, 2H) 3.33-3.44 (m, 2H) 3.63-3.70 (m, 2H). LC-MS 177 (M+H)+. *Previously described in U.S. Pat. No. 3,882,122.

reactant | cis-3,4-Dichlorotetrahydrothiophene 1,1-dioxide | 26.0 mmol, 5.0 g | Cl[C@@H]1CS(C[C@@H]1Cl)(=O)=O | C4H6Cl2O2S
reactant | ethane-1,2-diamine | 173.0 mmol, 10.4 g | C(CN)N | C2H8N2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | Octahydrothieno[3,4-b]pyrazine 6,6-dioxide | 2.7 g, 59% | N1C2C(NCC1)CS(C2)(=O)=O | C6H12N2O2S
